US07572808B2
A. Preparation of 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
To a stirring mixture of 7-bromo-8-iodo-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (1.0 g, 2.9 mmol) in 15 mL dioxane and 5 mL of water at 20° C. was added 4-chlorophenylboronic acid (1.4 g, 8.8 mmol), K2CO3 (0.8 g, 5.9 mmol), and tetrakis(triphenylphosphine)palladium (0.17 g, 0.15 mmol). The resulting reaction mixture was degassed and then heated in a microwave reactor at 150° C. for 40 min under argon. Analysis by HPLC/MS indicated that starting material had been consumed. The reaction mixture was allowed to cool to room temperature and was concentrated under reduced pressure. The crude product was purified by trituration with methylene chloride to obtain the title compound (0.52 g, 1.5 mmol) as a light yellow solid. MS: [M+H]+=356. 1H NMR (CD3OD): δ 7.89 (d, J=1.9 Hz, 1H), 7.37-7.24 (m, 8H), 5.48 (s, 1H).

reactant | 7-bromo-8-iodo-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 2.9 mmol, 1.0 g | BrC1=C(C=2N(C=C1)C(NN2)=O)I | C6H3BrIN3O
reactant | 4-chlorophenylboronic acid | 8.8 mmol, 1.4 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | K2CO3 | 5.9 mmol, 0.8 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.15 mmol, 0.17 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 1.5 mmol, 0.52 g | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(NN2)=O)C2=CC=C(C=C2)Cl | C18H11Cl2N3O
